US08648066B2
To a solution of 4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine (1.3 g, 2.7 mmol), potassium hydrogen carbonate (1.4 g, 14 mmol), 2-amino-5-bromo-3-nitropyridine (0.98 g, 4.5 mmol) and DIPEA (1.4 mL, 8.2 mmol) in dioxane (8 mL) and water (1 mL) was added dichloro[1,1-bis(diphenylphosphino]ferrocenepalladium (II) dichloromethane adduct (0.20 g, 0.27 mmol). The biphasic mixture was then heated (90° C.) for 2 h and the organic layer was separated and purified by column chromatography on silica (0-10% methanol/dichloromethane) to provide 5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-3-nitropyridin-2-amine (0.49 g, 37% yield) as a orange-red solid. MS (EI) for C26H23FN6O3: 487 (MH+).

reactant | 4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 2.7 mmol, 1.3 g | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C27H31BFN3O3
reactant | potassium hydrogen carbonate | 14 mmol, 1.4 g | C(O)([O-])=O.[K+]
reactant | 2-amino-5-bromo-3-nitropyridine | 4.5 mmol, 0.98 g | NC1=NC=C(C=C1[N+](=O)[O-])Br | C5H4BrN3O2
reactant | DIPEA | 8.2 mmol, 1.4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.27 mmol, 0.20 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-3-nitropyridin-2-amine | 0.49 g, 37% yield | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=NC2)N)[N+](=O)[O-] | C26H23FN6O3
